US05102905
Using a similar procedure to that described in Example 32, part (i), 2-methoxymethylthiophene (10.09 g) was lithiated and reacted with sulphur at 25°-30° C. After stirring the reaction mixture for 2 hours, the mixture was poured into water (150 ml) and the aqueous layer separated. A solution of potassium carbonate (5.45 g) and chloroacetic acid (7.45 g) in water (25 ml) was added to the aqueous layer, and the mixture allowed to stand for 18 hours. The mixture was acidified to pH 2 with 2 M hydrochloric acid and extracted with ether (2×150 ml). The organic extracts were combined, dried (MgSO4), treated with activated carbon, and evaporated, to give 2-(2-methoxymethylthien-5-ylthio)acetic acid as a viscous brown oil (3.1 g, 18% yield); NMR: 3.26(s,2H), 3.6(s,2H), 4.52(s,2H), 6.95(d,1H), 7.09(d,1H); m/e (chemical ionisation) 236 (M+NH4)+.

reactant | 2-methoxymethylthiophene | 10.09 g | COCC=1SC=CC1 | C6H8OS
reactant | sulphur | [S] | S
reactant | water | 150 ml | O | H2O
product | 2-(2-methoxymethylthien-5-ylthio)acetic acid | 3.1 g, 18% yield | COCC=1SC(=CC1)SCC(=O)O | C8H10O3S2
